US05409975
1897 Parts of deionized water, 125 parts of a 48.5% aqueous sodium hydroxide solution, and 0.5 parts of hydrosulfite were placed in the same apparatus as used in Example 1, and after deoxidation was carried out in the same way as in Example 1, 183.5 parts of bisphenol AF of 99.98% purity and 47.9 parts of bisphenol FL of 99.8% purity were dissolved therein, then 2038 parts of methylene chloride was added, and 79.1 parts of phosgene was blown thereinto at 13° to 16° C. over about 50 min with stirring. Then, 42.5 parts of a 48.5% aqueous sodium hydroxide solution and 6.7 parts of p-tert-butylphenol were added and after they were emulsified by stirring, 0.17 part of triethylamine was added, followed by stirring at 30° C. for about 2 hours, to complete the reaction. Then the reaction mixture was treated in the same way as in Example 1, to obtain a copolymerized polymer. The specific viscosity of this copolymerized polymer was 0.177, the retention of the specific viscosity after the steam treatment was 80%, showing good hydrolysis resistance, the glass transition temperature was 178° C., showing high heat resistance, the light transmittance was 89%, which is good, the light transmittance after the heat treatment was 80%, showing excellent heat stability, and the oxidation resistance was remarkably excellent in comparison with the polymer obtained from bisphenol A as shown by curve 2 (+) in FIG. 2.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrosulfite | S(=O)([O-])S(=O)[O-]
reactant | bisphenol AF | C1=CC(=CC=C1C(C2=CC=C(C=C2)O)(C(F)(F)F)C(F)(F)F)O | C15H10F6O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | p-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
